US07314888B1
In 50 ml of N,N-dimethylformamide are suspended 5.0 g of 3,5-dihydroxybenzoic acid, 29.8 g of potassium carbonate and 11 ml of isobutyl iodide. The mixture thus obtained is stirred at 110° C. for 7 hours. The reaction mixture is added to a mixture of ethyl acetate and water, pH is adjusted to 2 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; hexane:ethyl acetate=10:1) to obtain 2.6 g of isobutyl 3,5-diisobutoxybenzoate as a light yellow oily product.

reactant | 3,5-dihydroxybenzoic acid | 5.0 g | OC=1C=C(C(=O)O)C=C(C1)O | C7H6O4
reactant | potassium carbonate | 29.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | isobutyl iodide | 11 ml | C(C(C)C)I | C4H9I
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | isobutyl 3,5-diisobutoxybenzoate | 2.6 g | C(C(C)C)OC=1C=C(C(=O)OCC(C)C)C=C(C1)OCC(C)C | C19H30O4
